US07186724B2
28a: 4-(6-Fluoro-benzo[b]thiophen-3-yl)-piperazine-1-carboxylic acid tert-butyl ester
Add a solution of di-tert-butyl dicarbonate (5.15 g, 23.6 mmol) in CHCl3 (15 mL), dropwise, over 45 min to a solution at −65° C. of 1-(6-fluorobenzo[b]thiophen-3-yl)-piperazine (prepared according to U.S. Pat. No. 5,143,923), (2.8 g, 11.8 mmol), 4-(dimethyl-amino)pyridine (0.1 g, 1.3 mmol), and diisopropylethylamine (4.3 mL, 3.2 g, 24.8 mmol) in CHCl3 (50 mL). Following complete addition, stir the reaction at ambient temperature for 20 h, and then pour the reaction into a mixture of cold (5° C.) 5% aqueous NaOH/EtOAc (150/150 mL). Extract the product into EtOAc, wash the extract with H2O, brine and concentrate to a red oil. Purify the crude oil over silica gel (EtOAc), to obtain 3.6 g, of red oil, LC/MS m/z=337 (M+H)+.

reactant | di-tert-butyl dicarbonate | 23.6 mmol, 5.15 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 1-(6-fluorobenzo[b]thiophen-3-yl)-piperazine | FC=1C=CC2=C(SC=C2N2CCNCC2)C1 | C12H13FN2S
reactant | diisopropylethylamine | 24.8 mmol, 4.3 mL, 3.2 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | NaOH EtOAc | 150 mL | [OH-].[Na+].CCOC(=O)C
solvent | CHCl3 | 15 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | 4-(dimethyl-amino)pyridine | 11.8 mmol, 2.8 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-(6-Fluoro-benzo[b]thiophen-3-yl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C2=C(SC1)C=C(C=C2)F | C17H21FN2O2S
